US06211244B1
A stirred solution of 2-chlorohydrocinnamonitrile (Aldrich Chemical Co., 1.66 g, 10 mmol) in dichloromethane (100 ml) was cooled to −78° C. and treated dropwise with diisobutylaluminum hydride (1.42 g, 10 mmol). The reaction was stirred 1 hr at rt, cooled to −78° C. and treated with a solution of 1-(1-naphthyl)ethylamine (1.71 g, 10 mmol) in dichloromethane (25 ml). The reaction was transferred to an ice bath and stirred 2 hr. After this time the reaction was poured directly into a stirred solution of ethanolic sodium borohydride (50 ml of 0.2 M, 10 mmol). The mixture was stirred 30 min at rt and the excess sodium borohydride quenched by the addition of 10% HCl. The solution was then made basic by the addition of 10 N NaOH and transferred to a separatory funnel washing with diethyl ether (300 ml). The aqueous phase was removed and the remaining organic layer washed with 1 N NaOH (3×100 ml). The organic layer was dried over anhydrous magnesium sulfate, and concentrated to an oil. Chromatography of this material through silica gel using a gradient of chloroform to 10% methanol-chloroform afforded 2.34 g (72% yield) of (R)-N-[3-(2-chlorophenyl)propyl]-1-(1-naphthyl)ethylamine, 12Z, as a clear oil; m/z (rel. int.) 323 (M+, 2), 308 (63), 288 (7), 196 (5), 184 (5), 155 (100), 125 (24), 115 (8), 103 (4), 91 (3), 77 (7).

reactant | 2-chlorohydrocinnamonitrile | 10 mmol, 1.66 g | ClC1=C(CCC#N)C=CC=C1 | C9H8ClN
reactant | diisobutylaluminum hydride | 10 mmol, 1.42 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-(1-naphthyl)ethylamine | 10 mmol, 1.71 g | C1(=CC=CC2=CC=CC=C12)C(C)N | C12H13N
reactant | sodium borohydride | 10 mmol, 0.2 M, 50 ml | [BH4-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (R)-N-[3-(2-chlorophenyl)propyl]-1-(1-naphthyl)ethylamine | 2.34 g, 72% yield | ClC1=C(C=CC=C1)CCCN[C@H](C)C1=CC=CC2=CC=CC=C12 | C21H22ClN
